US07696223B2
b) [(1-Benzyl-3-chloro-7-cyano-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid
Prepared in analogy to that of Example 1(e) from 1-benzyl-3-chloro-7-cyano-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester, glycine and NaOMe/HOMe. The title compound, ESI MS (m/z): 385 (M+H)+.

reactant | 1-benzyl-3-chloro-7-cyano-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C=C2Cl)CC2=CC=CC=C2)O | C18H14ClN3O3
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | NaOMe HOMe | C[O-].[Na+].CO
product | [(1-Benzyl-3-chloro-7-cyano-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carbonyl)-amino]-acetic acid | C(C1=CC=CC=C1)N1C=C(C=2C1=C(N=C(C2O)C(=O)NCC(=O)O)C#N)Cl | C18H13ClN4O4
